Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vasotec
 
Attending: ___.
 
Chief Complaint:
ANGINA
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Ms. ___ is a ___ lady with a history of CAD (prior MI ___ 
s/p
PCI x 2), afib on xarelto, sarcoidosis (not currently on 
immunosuppression), HTN, HLD and  who presented to the ED  with
increasing left jaw pain over the past few months. 

Of note the patient has been experiencing jaw pain for some 
time.
she is followed by Dr. ___ last saw her on ___.

Per review of the last office note, she has been having jaw pain
for about ___ year. She states that this jaw pain is the same jaw
pain she experienced on a recent stress test. however she has
noticed this pain more often at rest of when climbing stairs.

Per Dr. ___ jaw pain is felt to be her angina equivalent.
At that visit, Dr. ___ the possibility of repeat
cardiac cath to evaluate her coronary anatomy but the patient
opted to hold off on this.

The presents now to the ED after having an episode of jaw pain
that woke her up from sleep yesterday and resolved with
sublingual nitroglycerin. She d enies worsening of pain with
chewing. No headaches or changes in her vision, although she is
followed for uveitis iso sarcoid. 

In regards to her history of CAD:
the patient initially presented to ___ in ___ with bilateral jaw and upper back discomfort
without chest pain The patient went into ventricular 
fibrillation
and was shocked and place on the amiodarone briefly. The patient
underwent cardiac cath and was found 100% occluded left
circumflex in which drug-eluting stents was placed.

She then was transferred to ___ for the second stage of the
procedure where she had a Promus drug-eluting stent placed into
the proximal LAD which had a 70-80% lesion. Beyond the LAD, 
there
is no significant disease. 

At the time of this second procedure, the LCX stent was patent.
The right coronary artery had just mild nonobstructive disease. 

She has not had a cardiac cathertization procedure since.

In the ED...
- Initial vitals:
 T97.8  RR66  BP166/76 RR18  O2 99% RA 

- EKG: NSR 

- Labs/studies notable for:  
Trop-T: <0.01 X1
BMP, CBC unremarkable.

CXR: IMPRESSION:  
No acute cardiopulmonary abnormality 

- Patient was given: 
___ 17:01 PO Aspirin 243 mg ___  
___ 18:51 PO/NG Rivaroxaban 20 mg ___ 
 
- Vitals on transfer:  
T 98.3 HR67 BP136/70 RR18  o297% RA 
 
Past Medical History:
- Hypertension  
- Dyslipidemia  
- CAD s/p 3 stents as above.      
- GERD
- Sarcoidosis
 
Social History:
___
Family History:
Grandmother died of MI when she was ___, otherwise no cardiac 
history.  

 
Physical Exam:
======================
ADMISSION PHYSICAL EXAM:
======================
___ Temp: 97.6 PO BP: 158/90 L Sitting HR: 64
RR: 16 O2 sat: 95% O2 delivery: RA   
GENERAL: NAD.  
CARDIAC:RRR, normal S1, S2. No murmurs   
LUNGS: CTAB, No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

=======================
DISCHARGE PHYSICAL EXAM:
=======================
VITALS: ___ 1113 Temp: 97.5 PO BP: 169/87 L Sitting HR: 60
RR: 17 O2 sat: 96% O2 delivery: RA  
GENERAL: NAD.  
CARDIAC:RRR, normal S1, S2. No murmurs   
LUNGS: CTAB, No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 02:00PM BLOOD WBC-6.8 RBC-3.64* Hgb-11.6 Hct-33.8* 
MCV-93 MCH-31.9 MCHC-34.3 RDW-12.2 RDWSD-41.4 Plt ___
___ 02:00PM BLOOD Neuts-69.3 ___ Monos-7.8 Eos-0.1* 
Baso-0.6 Im ___ AbsNeut-4.72 AbsLymp-1.49 AbsMono-0.53 
AbsEos-0.01* AbsBaso-0.04
___ 02:00PM BLOOD Glucose-92 UreaN-17 Creat-0.7 Na-145 
K-3.7 Cl-104 HCO3-26 AnGap-15
___ 02:00PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD cTropnT-<0.01

===============
DISCHARGE LABS:
===============
___ 08:00AM BLOOD WBC-5.0 RBC-3.50* Hgb-11.1* Hct-32.9* 
MCV-94 MCH-31.7 MCHC-33.7 RDW-12.6 RDWSD-43.0 Plt ___
___ 08:00AM BLOOD ___ PTT-32.6 ___
___ 08:00AM BLOOD Glucose-113* UreaN-18 Creat-0.7 Na-143 
K-4.1 Cl-104 HCO3-26 AnGap-13
___ 08:00AM BLOOD Calcium-9.2 Phos-2.6* Mg-2.1

===========
KEY STUDIES:
===========

CHEST X-RAY ___ size is normal.  The mediastinal 
and hilar contours are normal. The pulmonary vasculature is 
normal. Lungs are clear.  No pleural effusion or
pneumothorax is seen. There are no acute osseous abnormalities.  
Mild degenerative changes are noted in the thoracic spine. 
IMPRESSION: No acute cardiopulmonary abnormality.

CARDIAC CATHETERIZATION (___): 
Coronary Anatomy         Dominance: Right
Heavily calcified coronary arteries.
* Left Main Coronary Artery: The LMCA is normal.
* Left Anterior Descending: The LAD has 30% ___ stenosis and 
widely patent stent in the mid segment. The ___ Diagonal is a 
large vessel jailed by the LAD stent but is widely patent.
* Circumflex: The Circumflex has widely patent stent in the 
proximal segment extending into large OM1. Mid LCX is jailed by 
the stent and has 70% ostial stenosis but is small and supplies 
small territory.
* Right Coronary Artery: The RCA has 40% ostial stenosis and 
mild luminal irregularities.
Intra-procedural Complications: None
Impressions: One vessel CAD and widely patent stents. Mid LCX is 
small vessel with very small territory and unlikely to be cause 
of her symptoms.
 
Brief Hospital Course:
Ms. ___ is a ___ yo lady with a history of CAD s/p PCI X2 and 
___ X3 who presents with jaw pain that woke her up 
from sleep and resolved with sublingual nitroglycerin. Admitted 
for cardiac catheterization. Cardiac cath on ___ showed widely 
patient stents with modest additional disease and no clear 
culprit lesions. No interventions were made and medical therapy 
was optimized.

# CORONARIES: Single vessel CAD with patent DES 
# PUMP: Unkonwn 
# RHYTHM: NSR , history of paroxysmal Atrial fibrillation 

==============
ACUTE ISSUES:
==============

# Jaw Pain:
# CAD:
Patient with known history of CAD s/p ___ x2 in ___ 
after cardiac arrest. In ___, the patient chief complaint was 
jaw pain. The patient has had history of jaw pain for about ___
year. this pain is occasionally worse with exertion but can 
sometimes happen at rest. Of note, the patient had this jaw pain 
during her nuclear stress test in ___ which showed was 
"positive for ischemia". The patient now presented with jaw pain 
at rest which resolved with sublingual NTG. Troponin was 
negative X2. She was taken for cardiac cath on ___, which 
showed "one vessel CAD and widely patent stents. Mid LCX is 
small vessel with very small territory and unlikely to be cause 
of her symptoms." She was started on Imdur 30 mg daily and 
atorvastatin was increased to 40 mg daily. She was discharged on 
her home aspirin 81mg, Metoprolol succinate 25mg daily. She 
should restart her home irbesartan 300mg 24-hours after cath on 
___.

# Paroxysmal Atrial Fibrillation:
The patient has a known history of paroxysmal atrial 
fibrillation. She has been maintained on metoprolol for rate 
control with good effect. She is on rivaroxaban for 
anticoagulation and metoprolol succinate 25mg for rate control.

===============
Chronic Issues:
===============

# Hypertension: Continue home HCTZ 12.5 mg, along with 
metoprolol, irbesartan, and Imdur.

=====================
TRANSITIONAL ISSUES: 
=====================

[ ] Restart irbesartan on ___
[ ] Discharged on new Rx for Imdur 30 mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. irbesartan 300 mg oral DAILY 
3. Rivaroxaban 20 mg PO DAILY 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL TAKE 1 TABUNDER TONGUE Q5 MIN X 3 
FOR CHEST PAIN IF NO RESOLUTION CALL ___. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. Aspirin 81 mg PO DAILY 
9. calcium carbonate-vit D3-min 600 mg (1,500 mg)-200 unit oral 
daily 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*1 
3.  Aspirin 81 mg PO DAILY  
4.  calcium carbonate-vit D3-min 600 mg (1,500 mg)-200 unit oral 
daily  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  irbesartan 300 mg oral DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Nitroglycerin SL 0.4 mg SL TAKE 1 TABUNDER TONGUE Q5 MIN X 3 
FOR CHEST PAIN IF NO RESOLUTION CALL ___.  Rivaroxaban 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Angina

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
DISCHARGE WORKSHEET TEMPLATE  
================================================  
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having jaw pain that was 
concerning for a heart problem. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a cardiac catheterization to examine the arteries in 
your heart and to make sure the stent was still open. The 
catheterization showed minimal new disease and an open stent 
with good blood flow. This is very good news.
- We started a new medicine called Imdur, that you will continue 
to take after going home. Imdur lowers your blood pressure and 
improves the blood flow to your heart muscle.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take your medications as prescribed.
- start your irbesartan again on ___ ___s your new 
medicine Imdur.
- Follow up with your cardiologist and your primary care doctor.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  

 
Followup Instructions:
___